US06974815B2
4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile (150 mg) (0.38 mmol) in DMF (5 ml) was carefully dropped on a suspension of NaH 60% (18.2 mg) (1.2 eq) in DMF (5 ml) at RT. The reaction mixture was stirred for 1 h at RT, then ethyl bromoacetate (0.052 ml) (1.2 eq) was added. After one night, the reaction mixture was poured on water and extracted with tBuOMe. The organic layer was washed with water, dried over Na2SO4 and concentrated. The residue was purified on SiO2 chromatography (eluent EtOAc/cyclohexane—2/8) to give [7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-acetic acid ethyl ester (46.5 mg) as a white solid. 1H NMR (CDCl3): 7.55 (2H, d), 7.25 (2H, d), 7.1 (1H, m), 6.8 (2H, m), 5.0 (1H, m), 4.45 (1H, d), 4.2 (2H, q), 3.75 (1H, d), 3.05 (1H, d), 2.90 (1H, d), 2.5-2.1 (2H, m), 2.1-1.8 (4H, m), 1.25 (3H, t).

reactant | 4-[1-(3,5-Dichlorophenyl)-2-oxo-1,2,3,4,5,6-hexahydro-benzimidazol-3a-ylmethyl]benzonitrile | 0.38 mmol, 150 mg | ClC=1C=C(C=C(C1)Cl)N1C(NC2(C1=CCCC2)CC2=CC=C(C#N)C=C2)=O | C21H17Cl2N3O
reactant | NaH | 18.2 mg, 1.2 eq | [H-].[Na+]
reactant | ethyl bromoacetate | 0.052 ml, 1.2 eq | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | [7a-(4-Cyano-benzyl)-3-(3,5-Dichlorophenyl)-2-oxo-2,3,5,6,7,7a-hexahydro-benzimidazol-3a-yl]-acetic acid ethyl ester | 46.5 mg | C(C)OC(CC12C(NC(N1C1=CC(=CC(=C1)Cl)Cl)=O)(CCCC2)CC2=CC=C(C=C2)C#N)=O | C25H25Cl2N3O3
